US08754103B2
A suspension of 6-bromo-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine (50 mg, 0.19 mmol), 4-cyclopropyl phenylboronic acid (34 mg, 0.21 mmol), dppf(Pd)Cl2 (6.9 mg, 0.094 mmol), potassium carbonate (52 mg, 0.62 mmol) in degassed toluene (1 mL), degassed water (0.5 mL) and degassed ethanol (0.5 mL) was heated at 90° C. for 1 hour. The layers are separated, the organic layer was concentrated and the residue was purified by column chromatography to provide 6-(4-cyclopropylphenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine as a white powder.

reactant | 6-bromo-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | 0.19 mmol, 50 mg | BrC=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C7H3BrF3N3
reactant | 4-cyclopropyl phenylboronic acid | 0.21 mmol, 34 mg | C1(CC1)C1=CC=C(C=C1)B(O)O | C9H11BO2
reactant | potassium carbonate | 0.62 mmol, 52 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(4-cyclopropylphenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | C1(CC1)C1=CC=C(C=C1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C16H12F3N3
